US07514566B2
((2S,3S)-3-(4-(trifluoromethyl)phenyl)oxiran-2-yl)methanol
Into a 2000 mL flame-dried flask were introduced dry powdered 4A molecular sieves (9.0 g) and anhydrous DCM (1000 mL) under nitrogen. After cooling to −20° C., the following reagents were introduced sequentially via cannula under stirring: (diisopropyl 1-tartrate (5 g, 21 mmol), titanium tetraisopropoxide (4 mL, 14 mmol) and 5.5 M solution of t-butylhydroperoxide (101 mL, 554 mmol). The mixture was stirred 1 hour at −20° C. and a solution of (E)-3-(4-(trifluoromethyl)phenyl)prop-2-en-1-ol (56.0 g, 277 mmol) in 150 mL DCM was added over a 30 minute period. After 8 hours of stirring at the same temperature, the reaction was quenched by addition of 24 mL of a 10% aqueous solution of NaOH saturated with NaCl (100 mL of a 10% solution were prepared by adding 10 g of NaCl to a solution of 10 g of NaOH in 95 mL water). 300 mL ether was added dropwise while the cold bath was maintained at −20° C. After the ether addition, the cold bath was removed, and the mixture was allowed to warm to 10° C. Stirring was maintained for an additional 15 minutes at 10° C., and anhydrous MgSO4 (24 g) and Celite (3 g) were added. After a final 30 minutes of stirring, the mixture was allowed to settle, and the upper portion was filtered through a pad of Celite. The Celite was washed with 20 mL ether. The solvents were evaporated, and tert-butyl hydroperoxide was removed by azeotropic evaporation with toluene (3×100 mL) under high vacuum. The crude product was then chromatographed eluting with 30% EtOAc in hexane. After removing the solvent, a colorless oil was obtained as the desired product (54 g, yield=90%). 1H NMR (400 MHz, CD3OD) δ ppm 3.17 (ddd, J=4.74, 2.89, 2.15 Hz, 1H) 3.72 (dd, J=12.72, 4.70 Hz, 1H) 3.90 (dd, J=12.72, 2.93 Hz, 1H) 3.96 (d, J=1.96 Hz, 1H) 7.50 (d, J=8.02 Hz, 2H) 7.66 (d, J=8.22 Hz, 2H).

reactant | t-butylhydroperoxide | 554 mmol, 101 mL | C(C)(C)(C)OO | C4H10O2
reactant | (E)-3-(4-(trifluoromethyl)phenyl)prop-2-en-1-ol | 277 mmol, 56.0 g | FC(C1=CC=C(C=C1)/C=C/CO)(F)F | C10H9F3O
reactant | NaCl | 10 g | [Na+].[Cl-]
reactant | NaOH | 10 g | [OH-].[Na+]
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
solvent | water | 95 mL | O | H2O
catalyst | titanium tetraisopropoxide | 14 mmol, 4 mL | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
catalyst | diisopropyl 1-tartrate | 21 mmol, 5 g | C(=O)(OC(C)C)C(O)C(O)C(=O)OC(C)C | C10H18O6
solvent | ether | CCOCC | C4H10O
solvent | ether | 300 mL | CCOCC | C4H10O
product | ((2S,3S)-3-(4-(trifluoromethyl)phenyl)oxiran-2-yl)methanol | 54 g, yield=90% | FC(C1=CC=C(C=C1)[C@H]1[C@@H](O1)CO)(F)F | C10H9F3O2
